US04631343
A solution of 31.58 g of 2-(trifluoromethyl)-4-chlorophenylhydrazine and 27.92 g of ethyl (ethoxymethylene)cyanoacetate dissolved in 225 ml of acetic acid and 75 ml of water was heated on a steam bath for approximately 16 hours. The reaction mixture was cooled to room temperature and placed in the refrigerator. The precipitated solid was collected by filtrate to provide 43 g of 5-amino-1-[2-(trifluoromethyl)-4-chlorophenyl]-1H-pyrazole-4-carboxylic acid, ethyl ester. mp=114°-116° C.

reactant | 2-(trifluoromethyl)-4-chlorophenylhydrazine | 31.58 g | FC(C1=C(C=CC(=C1)Cl)NN)(F)F | C7H6ClF3N2
reactant | ethyl (ethoxymethylene)cyanoacetate | 27.92 g | C(C)OC=C(C(=O)OCC)C#N | C8H11NO3
reactant | water | 75 ml | O | H2O
solvent | acetic acid | 225 ml | C(C)(=O)O | C2H4O2
product | 5-amino-1-[2-(trifluoromethyl)-4-chlorophenyl]-1H-pyrazole-4-carboxylic acid, ethyl ester | 43 g | NC1=C(C=NN1C1=C(C=C(C=C1)Cl)C(F)(F)F)C(=O)OCC | C13H11ClF3N3O2
